US06833378B2
4-(1-Carboxy-propylamino)-2-(4-chloro-2,6-dimethyl-phenoxy)-6-methyl-nicotinic acid methyl ester
A mixture of 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinic acid methyl ester, 2-methyl-2-butene, excess NaClO2, and NaH2PO4 was stirred at rt for 15 min. The mixture was quenched with sat. sodium bicarbonate and extracted with hexane. The aqueous layer was acidified to pH 4 and extracted twice with diethyl ether. The organic layer was separated, dried and concentrated to give the title compound. The crude material was purified by silica gel column chromatography to give the desired product as a white crystal after recrystallization. Anal. For C20H23N2O5Cl calc., C, 59.04; H, 5.70; N, 6.89; found C, 59.29; H, 5.73; N, 6.83.

reactant | 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-formyl-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)C=O)C)OC1=C(C=C(C=C1C)Cl)C)=O | C20H23ClN2O4
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
reactant | NaClO2 | [O-]Cl=O.[Na+]
product | 4-(1-Carboxy-propylamino)-2-(4-chloro-2,6-dimethyl-phenoxy)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)C(=O)O)C)OC1=C(C=C(C=C1C)Cl)C)=O | C20H23ClN2O5
